US06204264B1
(1) N1,N1-Dimethyl-N3-(4-methyl-2-nitrophenyl)-1,3-propanediamine
N,N-Dimethyl-1,3-propanediamine (5.114 g) was added to 4-chloro-3-nitrotoluene (3.434 g) and the mixture was stirred for 14 hours at 125° C. The reaction mixture, with toluene added thereto, was washed with saturated sodium hydrogencarbonate aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and concentrated. The residue (4.93 g) was purified by silica gel column chromatography (silica gel 50 g, chloroform:methanol=1:0-10:1), thereby yielding the entitled compound (4.39 g) as reddish orange oil.

reactant | N,N-Dimethyl-1,3-propanediamine | 5.114 g | CN(CCCN)C | C5H14N2
reactant | 4-chloro-3-nitrotoluene | 3.434 g | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N1,N1-Dimethyl-N3-(4-methyl-2-nitrophenyl)-1,3-propanediamine | 4.39 g | CN(CCCNC1=C(C=C(C=C1)C)[N+](=O)[O-])C | C12H19N3O2
